US06350735B1
(2R,3R,4R,5R)-4-(Acetyloxy)-2-[(acetyloxy)methyl]-5-{2-cyano-6-[(1-naphthylmethyl)amino]-9H-purin-9-yl}tetrahydro-3-furanyl acetate
A solution of (2R,3R,4R,5R)-4-(acetyloxy)-2-[(acetyloxy)methyl]-5-(6-chloro-2-cyano-9H-purin-9-yl)tetrahydro-3-furanyl acetate (3.0 g, 6.86 mmol) (Preparation 10), 1-naphthalenemethylamine (1.2 g, 7.63 mmol), and triethylamine (2.8 g, 27.72 mmol) in acetonitrile (30 ml) was left to stand at room temperature for 2 hours during which time a fine precipitate slowly formed. The solvent was removed under reduced pressure and the residue partitioned between dichloromethane (150 ml) and water (50 ml). The organic phase was separated and the solvent was evaporated under reduced pressure The residue was purified by column chromatography on silica gel eluting with dichloromethane:ethyl acetate (4:1 by volume) to give a product which was azeotroped with dichloromethane to afford the title compound as a foam (3.6 g).

reactant | (2R,3R,4R,5R)-4-(acetyloxy)-2-[(acetyloxy)methyl]-5-(6-chloro-2-cyano-9H-purin-9-yl)tetrahydro-3-furanyl acetate | 6.86 mmol, 3.0 g | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]1OC(C)=O)N1C2=NC(=NC(=C2N=C1)Cl)C#N)COC(C)=O | C17H16ClN5O7
reactant | 1-naphthalenemethylamine | 7.63 mmol, 1.2 g | C1(=CC=CC2=CC=CC=C12)CN | C11H11N
reactant | triethylamine | 27.72 mmol, 2.8 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | (2R,3R,4R,5R)-4-(Acetyloxy)-2-[(acetyloxy)methyl]-5-{2-cyano-6-[(1-naphthylmethyl)amino]-9H-purin-9-yl}tetrahydro-3-furanyl acetate | 3.6 g | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]1OC(C)=O)N1C2=NC(=NC(=C2N=C1)NCC1=CC=CC2=CC=CC=C12)C#N)COC(C)=O | C28H26N6O7
